US05310897
To a suspension of sodium hydride (31 mg) in dry dimethylformamide (4.3 ml), there were added successively t-buty alpha-bromoacetate (835 mg) and (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-phenylthiocarbonylethyl]azetidin-2-one (0.42 g), and the resultant mixture was stirred at room temperature for 1 hour under a nitrogen stream. The reaction mixture was diluted with diethyl ether and adjusted to pH 6.86 with a phosphoric acid buffer solution. The aqueous layer was separated from the organic layer and extracted with diethyl ether three times. The extracts were combined with the organic layer, washed three times with brine, dried over sodium sulfate and evaporated. The residue was purified by silica gel chromatography to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-phenylthiocarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one.

reactant | sodium hydride | 31 mg | [H-].[Na+]
reactant | t-buty alpha-bromoacetate | 835 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-phenylthiocarbonylethyl]azetidin-2-one | 0.42 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=S)C1=CC=CC=C1)=O | C20H31NO2SSi
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 4.3 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-phenylthiocarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=S)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C26H41NO4SSi
